US04000275
6-Benzoyl-3-methyl-8,9-dichlorobenzimidazo[2,1-b]-quinazolin-12(6H)one is prepared with 3-methyl-8,9-dichlorobenzimidazo[2,1-b]quinazolin-12(6H)one and benzoyl chloride.

reactant | 3-methyl-8,9-dichlorobenzimidazo[2,1-b]quinazolin-12(6H)one | CC1=CC=C2C(N3C(=NC2=C1)NC1=C3C=C(C(=C1)Cl)Cl)=O | C15H9Cl2N3O
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 6-Benzoyl-3-methyl-8,9-dichlorobenzimidazo[2,1-b]-quinazolin-12(6H)one | C(C1=CC=CC=C1)(=O)N1C2=C(C=C(C(=C2)Cl)Cl)N2C1=NC1=CC(=CC=C1C2=O)C | C22H13Cl2N3O2
